US09078442B2
Intermediate 15: 3-Chloro-1-ethyl-1H-pyrazole-4-carbonitrile
1.00 g (7.34 mmol) of 3-amino-1-ethyl-1H-pyrazole-4-carbonitrile hydrochloride was dissolved in semi-concentrated hydrochloric acid (50 ml), the mixture was cooled to 0° C. and sodium nitrite (532 mg, 7.71 mmol) was added. The mixture formed was stirred at 0° C. for 45 minutes and then added dropwise to a solution, pre-heated to 60° C., of copper(I) chloride (727 mg, 7.34 mmol) in semiconcentrated hydrochloric acid, with evolution of gas. The reaction mixture was stirred at 60° C. for 2 hours, cooled to RT and extracted with CH2Cl2 (3×50 ml). The combined organic phases were dried over Na2SO4, the solvent was removed and the residue was chromatographed on silica gel using the mobile phase dichloromethane/methanol. This gave 630 mg (55%) of 3-chloro-1-ethyl-1H-pyrazole-4-carbonitrile.

reactant | 3-amino-1-ethyl-1H-pyrazole-4-carbonitrile hydrochloride | 7.34 mmol, 1.00 g | Cl.NC1=NN(C=C1C#N)CC
reactant | sodium nitrite | 7.71 mmol, 532 mg | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
catalyst | copper(I) chloride | 7.34 mmol, 727 mg | [Cu]Cl
product | 3-Chloro-1-ethyl-1H-pyrazole-4-carbonitrile | ClC1=NN(C=C1C#N)CC | C6H6ClN3
